US06043254
(b) 3-{(Z)-1-[4-(1H-tetrazol-5-yl)anilino]-1-phenylmethylidene}-5-nitro-2-indolinone
Prepared by reacting 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone with 1.3 equivalents of 5-(4-amino-phenyl)-1H-tetrazole in DMF (125° C., for 2 hours), subsequent treatment with 6.7 equivalents of piperidine (20° C., 1 hour) and precipitation with water.

reactant | 1-acetyl-3-{1-ethoxy-1-phenylmethylidene}-5-nitro-2-indolinone | C(C)(=O)N1C(C(C2=CC(=CC=C12)[N+](=O)[O-])=C(C1=CC=CC=C1)OCC)=O | C19H16N2O5
reactant | 5-(4-amino-phenyl)-1H-tetrazole | 1.3 equivalents | NC1=CC=C(C=C1)C1=NN=NN1 | C7H7N5
reactant | piperidine | 6.7 equivalents | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | 3-{(Z)-1-[4-(1H-tetrazol-5-yl)anilino]-1-phenylmethylidene}-5-nitro-2-indolinone | N1N=NN=C1C1=CC=C(N\C(\C2=CC=CC=C2)=C\2/C(NC3=CC=C(C=C23)[N+](=O)[O-])=O)C=C1 | C22H15N7O3
